US06951848B2
5-(tert-Butoxycarbonylamino-methyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester
To a mixture of (E)-3-[4-(tert-butoxycarbonylamino-methyl)-2-iodo-phenylamino]-but-2-enoic acid benzyl ester (5.25 g, 10 mmol) and tripropylamine (1.9 mL, 10 mmol) in DMF (10 mL) was added palladium acetate (112 mg, 0.5 mmol). The mixture was stirred at 120° C. for 1 hour and then partitioned between ethyl acetate and water. The organic phase was washed with water and brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo to give a residue, which was recrystallized from ethyl acetate and hexanes to give 1.9 g (48%) of the desired product as a yellowish solid: MS(APCI−): m/z 393.1.4 (M−H).

reactant | (E)-3-[4-(tert-butoxycarbonylamino-methyl)-2-iodo-phenylamino]-but-2-enoic acid benzyl ester | 10 mmol, 5.25 g | C(C1=CC=CC=C1)OC(\C=C(/C)\NC1=C(C=C(C=C1)CNC(=O)OC(C)(C)C)I)=O | C23H27IN2O4
reactant | tripropylamine | 10 mmol, 1.9 mL | C(CC)N(CCC)CCC | C9H21N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(tert-Butoxycarbonylamino-methyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester | 1.9 g, 48% | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CNC(=O)OC(C)(C)C)C | C23H26N2O4
